US07723378B2
To a solution of 2,4,6-trimethylaniline (29.8 g, 0.22 mol) in dioxane (300 mL) DDQ (49.9 g, 0.22 mol) is added. The brown suspension is stirred at rt for 18 h before it is filtered. The solvent of the filtrate is evaporated and the crude product is purified by CC on silica gel eluting with hexane:EA 1:1 to give 4-amino-3,5-dimethyl-benzaldehyde (5.0 g) as a beige solid; LC-MS: tR=0.78 min, [M+1]+=150.26.

reactant | 2,4,6-trimethylaniline | 0.22 mol, 29.8 g | CC1=C(N)C(=CC(=C1)C)C | C9H13N
reactant | dioxane | 0.22 mol, 300 mL, 49.9 g | O1CCOCC1 | C4H8O2
product | 4-amino-3,5-dimethyl-benzaldehyde | 5.0 g | NC1=C(C=C(C=O)C=C1C)C | C9H11NO
